US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-methanol
A mixture of 2.0 g. of 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxaldehyde and 0.35 g. of sodium borohydride in 100 ml. of methanol is stirred for 16 hours. The mixture is concentrated to dryness in vacuo and dichloromethane is added. The solution is washed with saturated sodium bicarbonate and passed through a column of hydrous magnesium silicate. The eluent is concentrated and diluted with hexane to give the product of the example.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxaldehyde | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C=O | C12H8N4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-methanol | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2CO | C12H10N4O
